US08404676B2
Intermediate 30: 4-(3,5-dimethylisoxazol-4-yl)-3-methylbenzoic acid
A suspension of methyl 4-bromo-3-methylbenzoate (4 g; 17.5 mmol; 1 eq.), 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)isoxazole (Fluorochem 11035; 4.28 g; 19.2 mmol; 1.1 eq.), potassium carbonate (12.1 g; 87.3 mmol; 5 eq.) and Pd(PPh3)4 (2.02 g; 1.75 mmol; 0.1 eq.) in toluene (20 mL) and water (20 mL) was refluxed for 4 hours. The reaction mixture was cooled down to room temperature and filtered through a pad of Celite® which was further washed with toluene (200 mL). The filtrate was concentrated in vacuo and the residue taken up in Ethyl acetate (250 mL). The organic layer was washed with sat. aq. NaHCO3 (100 mL), water (100 mL) and brine (100 mL) then dried over magnesium sulfate and concentrated in vacuo. The residue (3 g; 12.2 mmol; 1 eq.) was taken up in EtOH (90 mL), sodium hydroxide (5M; 7.34 mL; 36.7 mmol; 3 eq.) was added and the reaction mixture was stirred at 60° C. for one hour. After concentration in vacuo, the residue was taken up in water (200 mL) and the aqueous phase was washed with Ethyl acetate then acidified to pH 2 with conc. HCl. The solution was concentrated to ca. 100 mL and the precipitate filtered off and dried. Trituration in Et2O and filtration afforded the title compound as a beige solid.

reactant | methyl 4-bromo-3-methylbenzoate | 17.5 mmol, 4 g, 1 eq. | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)isoxazole | 19.2 mmol, 4.28 g, 1.1 eq. | CC1=NOC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H18BNO3
reactant | potassium carbonate | 87.3 mmol, 12.1 g, 5 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 36.7 mmol, 5M, 7.34 mL, 3 eq. | [OH-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.75 mmol, 2.02 g, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3,5-dimethylisoxazol-4-yl)-3-methylbenzoic acid | CC1=NOC(=C1C1=C(C=C(C(=O)O)C=C1)C)C | C13H13NO3
